US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 0.95 g of 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-pyridyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate in 3.2 cm3 of 1M tetrabutylammonium fluoride solution. The crude product is purified by chromatography on silica [eluent: ethyl acetate]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. After vigorous stirring in diisopropyl ether, 0.36 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-pyridyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid, melting at 147° C., is thus obtained ([α]D20 =+51.1°±17° (C=0.49%; DMF)) [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 7.3 to 7.6 (m, 5H, aromatic); 8.0 (bs, 1H, N--C6H4 --C in position 2); 8.5 (bs, 1H, H in position 2 of pyridyl); 8.8 (bs, 1H, H in position 6 of pyridyl). Infrared spectrum (KBr), characteristic bands in cm-1 : 3385, 2975, 2930, 2600, 2500, 1730, 1660, 1610, 1590, 1560, 1485, 1370, 1240, 1150, 760, 710, 685].

reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-pyridyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate | 0.95 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C=1C=NC=CC1)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C28H38N4O6SSi
solvent | tetrabutylammonium fluoride | 1M, 3.2 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-pyridyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.36 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C=1C=NC=CC1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C23H26N4O6S
